US04215037
(6) Ddz-Tyr(But)-Gln-OH
2.9 g (3.77 mmols) of Ddz-Tyr(But)-Gln-OH-DCHA were partitioned between ethyl acetate and citrate buffer (pH 3). The ethyl acetate phase was washed neutral with water, dried over Na2SO4 and concentrated. An amorphous product was obtained.

reactant | Ddz-Tyr(But)-Gln-OH DCHA | 3.77 mmols, 2.9 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1.C1CCC(CC1)NC2CCCCC2
reactant | citrate | pH 3 | C(CC(O)(C(=O)[O-])CC(=O)[O-])(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ddz-Tyr(But)-Gln-OH | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OC(C)(C)C1=CC(OC)=CC(OC)=C1 | C30H41N3O9
